US03970704
To a solution of 2 g. of trans ethyl 3,7,11-trimethyldodeca-2,4,10-trienoate in 20 ml. of ethanol, cooled to 0° in an ice bath, is added a suspension of 2.32 g. of mercuric acetate in 50 ml. of ethanol over 15 minutes. The reaction mixture is stirred for two hours and then, with cooling, 1.22 g. of potassium hydroxide in 20 ml. of ethanol is added. Then 0.139 g. of sodium borohydride is added in small portions and stirring continued for 30 minutes. The solution is decanted, then concentrated to half volume, diluted with 100 ml. of water and extracted with ether (3 × 50). The ethereal phase is washed with water, dried over magnesium sulfate and the crude product chromatographed on silica using hexane:ether to yield trans ethyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | trans ethyl 3,7,11-trimethyldodeca-2,4,10-trienoate | CC(=CC(=O)OCC)\C=C\CC(CCC=C(C)C)C | C17H28O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | trans ethyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate | C(C)OC(CCCC(C/C=C/C(=CC(=O)OCC)C)C)(C)C | C19H34O3
